US06569860B2
A mixture of ethyl 5-bromo-benzofuran-2-carboxylate (2.5 g, 9.3 mmol), benzeneboronic acid (1.25 g, 10.2 mmol), tetrakis(triphenylphosphine)palladium (0) (118 mg), sodium carbonate (3.25 g, 30.6 mmol) in water (25 mL), and dioxane (25 mL) was stirred under an argon atmosphere and heated to 100° C. for 16 hrs. The white heterogeneous mass was acidified with 1M HCl, extracted, washed, dried, and evaporated, to give about 2.2 g of 5-phenyl-benzofuran-2-carboxylic acid, mp. 218-220° C.

reactant | ethyl 5-bromo-benzofuran-2-carboxylate | 9.3 mmol, 2.5 g | BrC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H9BrO3
reactant | benzeneboronic acid | 10.2 mmol, 1.25 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 30.6 mmol, 3.25 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | water | 25 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 118 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 5-phenyl-benzofuran-2-carboxylic acid | about 2.2 g | C1(=CC=CC=C1)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C15H10O3
